US04057417
Preparation of 4-amino-6-sec.-butyl-3-methylamino-1,2,4-triazin-5 (4H)-one
Monomethylamine was passed for 4 hours into a boiling solution of 42.8 g of 4-amino-6-sec.-butyl-3-methylthio-1,2,4-triazin-5 (4H)-one of which 12 ml of glacial acetic acid and 1 g of p-toluenesulfonic acid had been added, and the mixture was then boiled for a further 4 hours under reflux. The solvent was largely evaporated off in vacuo and the oily residue was taken up in methylene chloride and repeatedly shaken with 10% strength sodium carbonate solution. The organic phase was separated off and concentrated by evaporation. 38.6 g (98% of theory) of 4-amino-6-sec.-butyl-3-methylamino-1,2,4-triazin-5 (4H)-one which gradually solidified, remained. The product was purified further by recrystallization from carbon tetrachloride. Melting point = 117° C.

reactant | Monomethylamine | CN | CH5N
reactant | 4-amino-6-sec.-butyl-3-methylthio-1,2,4-triazin-5 (4H)-one | 42.8 g | NN1C(=NN=C(C1=O)C(C)CC)SC | C8H14N4OS
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 4-amino-6-sec.-butyl-3-methylamino-1,2,4-triazin-5 (4H)-one | NN1C(=NN=C(C1=O)C(C)CC)NC | C8H15N5O
